US07371780B2
Hematoxylin/Eosin Staining
For staining with hematoxylin and eosin, cells were grown in a six-well culture plate with each well containing a Snowcoat X-Tra™ microscope slide (Surgipath Laboratories, MB) immersed in 3 ml of H21 medium. When the cells reached 50% confluence, they were treated with 0-300 nM calphostin C, followed by a 2 hour exposure of the cultures to fluorescent light as described above. After light activation, the cells were placed in a 37° C. humidified incubator with 5% CO2 and incubated for an additional 22 hours. The cells were then stained with hematoxylin and eosin using a previously described procedure [33, 43]. Briefly, the media was removed from cell cultures and the cells that remained adhered to the slides were washed with PBS, fixed in formalin:acetone (1:2) for 2 min, and allowed to air dry for 10 min. After washing with distilled water, 250 μl of hematoxylin solution (BDH Chemicals, Toronto, ON) was placed on each slide and allowed to incubate with the cells for 5 min. The slides were then washed with distilled water, Scott's tap water (20 g MgSO4.7H2O, 1.5 g NaHCO3 in 1 L H2O), and a final wash with distilled water. The cells on the slides were then stained for 5 min in 250 μl of eosin solution (100 ml of 1% eosin, 10 ml of 1% phyloxine, 4 ml of glacial acetic acid, and 780 ml of 95% ethanol). The cells were then dehydrated by washing three times in 95% ethanol and twice in 100% ethanol. The small slide was then mounted on a standard microscope glass slide, and 10 randomly selected fields were viewed at 100× magnification and photographed. For each concentration of calphostin C, the total number of dead cells in each field was ascertained and expressed relative to the total number of cells in the field. Dead cells were much smaller, exhibited dark staining and had no distinction of nucleus and cytoplasm.

reactant | hematoxylin | C1=CC(=C(C2=C1[C@H]3C4=CC(=C(C=C4C[C@]3(CO2)O)O)O)O)O | C16H14O6
reactant | eosin | C=1C=CC2=C(C1)C(=O)OC23C=4C=C(C(=C(C4OC5=C3C=C(C(=C5Br)O)Br)Br)O)Br | C20H8Br4O5
reactant | calphostin C | 0-300 nM | C[C@H](CC1=C(C(=O)C2=C(C=C(C=3C2=C1C4=C5C3C(=CC(=C5C(=O)C(=C4C[C@@H](C)OC(=O)OC=6C=CC(=CC6)O)OC)O)OC)OC)O)OC)OC(=O)C=7C=CC=CC7 | C44H38O14
reactant | CO2 | C(=O)=O | CO2
product | Hematoxylin Eosin | C1=CC(=C(C2=C1[C@H]3C4=CC(=C(C=C4C[C@]3(CO2)O)O)O)O)O.C=1C=CC2=C(C1)C(=O)OC23C=4C=C(C(=C(C4OC5=C3C=C(C(=C5Br)O)Br)Br)O)Br | InChI=1S/C20H8Br4O5.C16H14O6/c21-11-5-9-17(13(23)15(11)25)28-18-10(6-12(22)16(26)14(18)24)20(9)8-4-2-1-3-7(8)19(27)29-20;17-10-2-1-8-13-9-4-12(19)11(18)3-7(9)5-16(13,21)6-22-15(8)14(10)20/h1-6,25-26H;1-4,13,17-21H,5-6H2/t;13-,16+/m.0/s1
